US08097708B2
Synthesis of N-[1-[4-(methylsulfonyl)phenyl]ethyl]ethane-1,2-diamine
4′-(Methylsulfonyl)acetophenone (1.0 g) and ethylenediamine (908 mg) were dissolved in methanol (10 ml), and the solution was heated at 50° C. for 3 hours. The reaction mixture was added with a suspension of sodium borohydride (286 mg) in tetrahydrofuran (50 ml), and then added with methanol (6 ml), and the mixture was stirred at room temperature for 16 hours. The reaction mixture was made acidic with 1 N hydrochloric acid, and then the solvent was evaporated under reduced pressure. The mixture was added with distilled water and potassium carbonate and thereby neutralized, then the mixture was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (chloroform:methanol:28% aqueous ammonia=10:1:0.1) to obtain the title compound (553 mg).

reactant | 4′-(Methylsulfonyl)acetophenone | 1.0 g | CS(=O)(=O)C1=CC=C(C=C1)C(C)=O | C9H10O3S
reactant | ethylenediamine | 908 mg | C(CN)N | C2H8N2
reactant | sodium borohydride | 286 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 6 ml | CO | CH4O
product | N-[1-[4-(methylsulfonyl)phenyl]ethyl]ethane-1,2-diamine | 553 mg | CS(=O)(=O)C1=CC=C(C=C1)C(C)NCCN | C11H18N2O2S
